US06211199B1
19.5.2 Synthesis of 1-benzyl-3-(2-(4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(phenylmethyl)-2-oxopyrrolidine
Combine 1-benzyl-3-(phenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine (0.99 g, 2.57 mmol), (1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (0.80 g, 2.57 mmol), and N,N-diisopropylethylamine (0.73 g, 5.65 mmol) in acetonitrile (37 mL). Heat to reflux. After 12 hours, cool and partition the reaction mixture between dichloromethane and water. Separate the layers and extract the organic layer with brine. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on a short column of silica gel eluting with 2% triethylamine/10% methanol/ethyl acetate to give a residue. Partition the residue between dichloromethane and brine. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to give the title compound: Rf=0.22 (silica gel, 2% triethylamine/10% methanol/ethyl acetate).

reactant | 1-benzyl-3-(phenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine | 2.57 mmol, 0.99 g | C(C1=CC=CC=C1)N1C(C(CC1)(CCOS(=O)(=O)C)CC1=CC=CC=C1)=O | C21H25NO4S
reactant | (1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 2.57 mmol, 0.80 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)NC3CCNCC3)C=C1 | C19H21FN4
reactant | N,N-diisopropylethylamine | 5.65 mmol, 0.73 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 37 mL | C(C)#N | C2H3N
product | 1-benzyl-3-(2-(4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(phenylmethyl)-2-oxopyrrolidine | C(C1=CC=CC=C1)N1C(C(CC1)(CC1=CC=CC=C1)CCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)=O | C39H42FN5O
